US07098212B2
(2-Methylbenzenesulfonyl)-carbamic acid 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl ester
To a solution of 2-(4-chloro-2-hydroxymethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.050 g, 0.12 mmol) in dry toluene (2 mL) was added triethylamine (0.05 mL, 0.36 mmol) followed by o-toluenesulfonylisocyanate (0.05 mL, 0.36 mmol) and catalytic 4-dimethylaminopyridine. After 23 hours the reaction was warmed to 55° C. for 2 hours. After cooling the reaction was evaporated to dryness and the title compound purified by silica gel chromatography (0.074 g, LRMS: 618.1).

reactant | 2-(4-chloro-2-hydroxymethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.12 mmol, 0.050 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)CO | C22H26ClFN2O3
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | o-toluenesulfonylisocyanate | 0.36 mmol, 0.05 mL | C=1(C(=CC=CC1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (2-Methylbenzenesulfonyl)-carbamic acid 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzyl ester | ClC=1C=CC(=C(COC(NS(=O)(=O)C2=C(C=CC=C2)C)=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C30H33ClFN3O6S
